Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
left leg pain, pins and needles
 
Major Surgical or Invasive Procedure:
1. Bilateral hemilaminotomy L2.
2. Laminectomy without facetectomy L3.
3. Laminectomy,  medial facetectomy, foraminotomy, L4.

 
History of Present Illness:
Chief Complaint:  "Pain and numbness in the left leg."

History of Present Illness:  A ___ man who was doing 
well
until ___ when he experienced the onset of pain.  He has pain
that is located in the left low back that radiates down the leg
all the way to the sole of the foot with a severe numb quality. 
It also goes to the lateral aspect of the leg.  He notes that it
started in ___.  He had a ___ cyst rupture while
playing golf, had some swelling in the leg, and then severe
numbness and paresthesias begin.  It is worse with weightbearing
and this includes the paresthesias in the sole and ankle, i.e.
sensitive.  There is no color change.  He has a sensation of
swelling in the leg.  The knee was drained at an outside 
facility
and then he had a cyst procedure here with a ___ cyst, but 
he
has persistent radicular symptoms.  Three weeks prior to this
knee problems, he had a lot of heavy lifting and do in his 
garage
and had some pain in the back.

In ___, he had quite similar pain after a sneeze.  He had left
leg radicular pain and he had numerous injections, epidural and
selective nerve root block for his two herniated disc.  In ___,
he also had several injections, perhaps 11 injections after a
fall from a ladder truck.

Past Medical and Surgical History:  As above,
1.  Prior lumbosacral pain disc herniations.
2.  He also has knee arthritis and has had surgery for this.
3.  Chronic shoulder pain.
4.  History of palpitations.

Allergies:  Shellfish.

Medications:  Reconciled lesion was performed.  No
anticoagulation.

Family History:  Noncontributory.

Social History:  Nonsmoker, independent with mobility and
self-care, uses a cane on an as needed basis.  He works as a
___.

Review of Systems:  Overall, he reports that he is improving
slightly, but it is still significant up to ___ at times.  It
is worse with "everything."  He has not improved adequately with
medications.  Has no recent fevers or illnesses and otherwise
noncontributory constitutional, skin, eyes, ears, nose, throat,
cardiovascular, respiratory, genitourinary, gastrointestinal,
psychiatric, endocrine, hematologic, and neurologic.

Physical Examination:  Vital Signs:  Not recorded.  ___: 
Alert, oriented, fluent, no distress with wife.  ___:  Normal. 

Pulmonary:  Normal.  Cardiovascular:  Normal.  GI:  Normal. 
Spine:  No obvious abnormalities of alignment.  Musculoskeletal: 

Hip provocation negative.  Neurologic:  ___ strength in hip
flexion, knee extension, dorsiflexion, plantar flexion, extensor
hallucis, inversion, and eversion.  Reflexes 1+ on right
patellar, but mute or 0 in left patella and the Achilles 
reflexes
are symmetrical and mute.  There is decreased sensation in the
left lateral foot.  Negative straight leg raise.  There is a
positive Tinel's at the left leg.  His gait is antalgic.  He
avoids weightbearing left lateral foot and has to toe walk to
avoid this.  No allodynia or neuropathic changes or summation. 
Skin:  As above, no exanthems.  Lymphatics:  There is some edema
in the left leg, but negative Homans.  No cords.  No temperature
change.

 
Past Medical History:
see hpi
 
Social History:
___
Family History:
see hpi
 
Physical Exam:
see hpi
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.  Refer to 
the dictated operative note for further details.  The surgery 
was without complication and the patient was transferred to the 
PACU in a stable condition.  TEDs/pnemoboots were used for 
postoperative DVT prophylaxis.  Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with a PCA.  Diet was advanced as tolerated. 
 The patient was transitioned to oral pain medication when 
tolerating PO diet.   Physical therapy was consulted for 
mobilization OOB to ambulate.  Hospital course was otherwise 
unremarkable.  On the day of discharge the patient was afebrile 
with stable vital signs, comfortable on oral pain control and 
tolerating a regular diet.
 
Medications on Admission:
cyclobenzaprine 
10 mg Tablet 
1 Tablet(s) by mouth every eight (8) hours as needed for back 
pain Sedating; do not drive, drink alcohol with this medicine  
___
Renewed ___,
 ___. 30 Tablet 6 (Six) ___ MD
___ Care)  
  epinephrine 
0.3 mg/0.3 mL (1:1,000) Pen Injector 
One syringe once as needed for sweling, difficulty breathing, 
alleric reaction  ___
Modified ___,
 ___. 2 Syringe 6 (Six) ___ MD
___ Care)  
  gabapentin 
100 mg Capsule 
1 Capsule(s) by mouth three times a day take initially at night, 
avoid driving while on it.  ___
New ___,
 ___ 90 Capsule 3 (Three) ___ MD
(___)  
  lidocaine 
5 % (700 mg/patch) Adhesive Patch, Medicated 
One patch applied to the lower back Daily Apply for 12 hours 
then remove for 12hours before placing a new patch  ___
New ___,
 ___ Each 3 (Three) ___ MD
___ Care)  
  sulfasalazine 
500 mg Tablet, Delayed Release (E.C.) 
3 Tablet(s) by mouth twice a day  ___
Modified ___,
 ___ 180 Tablet 5 (Five) ___ MD
(___)  
  * OTCs *             
  omeprazole 
20 mg Capsule, Delayed Release(E.C.) 
1 Capsule(s) by mouth once a day (OTC)  

 
Discharge Medications:
1. gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*0*
2. sulfasalazine 500 mg Tablet, Delayed Release (E.C.) Sig: 
Three (3) Tablet, Delayed Release (E.C.) PO Q12H (every 12 
hours).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain fever.  
6. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for c. 
 
7. senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for c.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Lumbar spinal stenosis L2-L3, L3-L4.
2. Lumbar disk displacement L2-L3, L3-L4.
3. Neurogenic claudication.
4. Radiculopathy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have undergone the following operation: Lumbar Decompression 
Without Fusion
 
Immediately after the operation:
 
-        Activity: You should not lift anything greater than 10 
lbs for 2 weeks. You will be more comfortable if you do not sit 
or stand more than ~45 minutes without moving around.
 
-        Rehabilitation/ Physical Therapy: 
o   ___ times a day you should go for a walk for ___ minutes 
as part of your recovery.  You can walk as much as you can 
tolerate.
o   Limit any kind of lifting.
 
-        Diet: Eat a normal healthy diet. You may have some 
constipation after surgery.  You have been given medication to 
help with this issue.
 
-        Brace: You may have been given a brace. This brace is 
to be worn when you are walking. You may take it off when 
sitting in a chair or lying in bed.
 
-        Wound Care: Remove the dressing in 2 days.  If the 
incision is draining cover it with a new sterile dressing.  If 
it is dry then you can leave the incision open to the air.  Once 
the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing and call the office.
 
-        You should resume taking your normal home medications.
 
-        You have also been given Additional Medications to 
control your pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.  You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2.  We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
 In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
 
-        Follow up: 
o   Please Call the office and make an appointment for 2 weeks 
after the day of your operation if this has not been done 
already.
o   At the 2-week visit we will check your incision, take 
baseline X-rays and answer any questions. We may at that time 
start physical therapy.
o   We will then see you at 6 weeks from the day of the 
operation and at that time release you to full activity.
 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound. 
 
Followup Instructions:
___